US07189741B2
C. 3-[4-(1-furan-2-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 2.8 g (10 mmol) of 1-furan-2-ylmethyl-3-piperidin-4-yl-1H-indole and 2.5 g (11 mmol) of 3-bromomethyl-benzoic acid methyl ester. After standard work-up, 1.5 g (36% of yield) of the expected acid were obtained.

reactant | 1-furan-2-ylmethyl-3-piperidin-4-yl-1H-indole | 10 mmol, 2.8 g | O1C(=CC=C1)CN1C=C(C2=CC=CC=C12)C1CCNCC1 | C18H20N2O
reactant | 3-bromomethyl-benzoic acid methyl ester | 11 mmol, 2.5 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-[4-(1-furan-2-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid | O1C(=CC=C1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C26H26N2O3
